* C:\Users\Dvir\Documents\School Stuff\ENPH 4th Year Term 1\Capstone\NMR_Preamplifier\LTspice\Cascode\cascode.asc
R3 Vcc V1 13
R1 V1 V2 59
R2 V2 0 415
R_C Vcc N001 50
R_E N002 0 410
Cin V2 Vin 22n
Cbyp V1 0 22n
Cout Vout N001 22n
C_E 0 N002 22n
XU1 N001 V1 NC_01 Vo1 BFP842ESD
XU2 Vo1 V2 NC_02 N002 BFP842ESD
V1 Vcc 0 3.3
Vin Vin 0 AC 1e-6
.ac lin 10000 125e6 500e6
.lib C:\Users\Dvir\Documents\LTspiceXVII\lib\sym\Infineon-RFTransistor-SPICE.lib-SM-v02_10-EN.lib
.backanno
.end
